US05684122
(Synthesis of maleic anhydride/isobutene copolymer)
The formed particulate matter was collected by centrifugation and dried to obtain 4.4 kg of realistic anhydride/isobutene copolymer. The resulting copolymer contained 50 mole % of succinic anhydride units according to elemental analysis, and had relative solution viscosity of 2.0 (measured in N,N-dimethylformamide solvent at 23° C. with an Ubbelohde viscometer).

reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | maleic anhydride isobutene | C1(\C=C/C(=O)O1)=O.C=C(C)C | InChI=1S/C4H2O3.C4H8/c5-3-1-2-4(6)7-3;1-4(2)3/h1-2H;1H2,2-3H3
